US06787541B1
4-Chloro-2-methylthieno[3,2-d]pyrimidine
A suspension of 4-hydroxy-2-methylthieno[3,2-d]pyrimidine (0.631 g, 3.8 mmol) in POCl3 (10 mL, 400 mmol) was refluxed for 4 h, concentrated in vacuo, treated with saturated NaHCO3 (20 mL), extracted with EtOAc (2×20 mL) and the combined extracts dried (MgSO4) and concentrated in vacuo to give the title compound (0.645 g, 92% as a pale yellow solid: mp 82-84° C.; IR νmax (Nujol)/cm−1 3073, 2925, 2855, 1566, 1515, 1460, 1378, 1344, 1307, 894 and 795; NMR δH (400 MHz, DMSO-d6) 3.41 (3H, s), 7.72 (1H, d, J 5.0 Hz) and 8.61 (1H, d, J 5.0 Hz).

reactant | 4-hydroxy-2-methylthieno[3,2-d]pyrimidine | 3.8 mmol, 0.631 g | OC=1C2=C(N=C(N1)C)C=CS2 | C7H6N2OS
reactant | POCl3 | 400 mmol, 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methylthieno[3,2-d]pyrimidine | ClC=1C2=C(N=C(N1)C)C=CS2 | C7H5ClN2S
